### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): define projective dimension as a number

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we gave the definition of projective dimension in `WithBot ℕ∞` as `projectiveDimension`, 
`projectiveDimension X = ⊥` iff `X` is zero and acts in common sense in the non-negative values.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 1]
```diff
@@ -199,3 +205,129 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+        exact hasProjectiveDimensionLT_of_ge X n i (Nat.le_of_pred_lt (Nat.cast_lt.mp hi))
+      have not := Nat.cast_le.mp (h (n - 1 : ℕ) this)
+      omega
+  · simp only [projectiveDimension, le_sInf_iff, Set.mem_setOf_eq]
+    intro m hm
+    by_contra nle
+    exact h (hm _ (lt_of_not_ge nle))
+
+lemma projectiveDimension_eq_bot_iff (X : C) : projectiveDimension X = ⊥ ↔
+    Limits.IsZero X := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: Some of these lemmas should be proven first for `HasProjectiveDimensionLT X`. When I added `HasProjectiveDimensionLT` initially, there was not yet the comparison between `Ext _ _ 0` and morphisms, so that I did not include the lemma `HasProjectiveDimensionLT X 0 ↔ IsZero X`, but it should be added. Similarly for `Projective`.

Comment (Thmoas-Guan) [reply Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: I think I included the `HasProjectiveDimensionLT X 1 ↔ Projective X` already, only at the end of the file. I'll add `HasProjectiveDimensionLT X 0 ↔ IsZero X` (but I remember we have both sides in this file already?) and move them forward.

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 2]
```diff
@@ -199,3 +230,104 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
 
 end CategoryTheory
+
+section ProjectiveDimension
+
+open CategoryTheory
+
+variable {C : Type u} [Category.{v, u} C] [Abelian C]
+
+/-- The projective dimension of object of abelian category. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]:
```suggestion
/-- The projective dimension of an object in an abelian category. -/
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 3]
```diff
@@ -199,3 +230,104 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+  exact ⟨fun h ↦ hasProjectiveDimensionLT_of_iso e _,
+    fun h ↦ hasProjectiveDimensionLT_of_iso e.symm _⟩
+
+lemma hasProjectiveDimensionLT_of_projectiveDimension_lt (X : C) (n : ℕ)
+    (h : projectiveDimension X < n) : HasProjectiveDimensionLT X n := by
+  have : projectiveDimension X ∈ _ := csInf_mem (by
+    use ⊤
+    simp)
+  simp only [Set.mem_setOf_eq] at this
+  exact this n h
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]:
```suggestion
lemma projectiveDimension_lt_iff {X : C} {n : ℕ} :
    projectiveDimension X < n ↔ HasProjectiveDimensionLT X n := by
  refine ⟨fun h ↦ ?_, fun h ↦ (sInf_lt_iff ..).2 ?_⟩
  · have : projectiveDimension X ∈ _ := csInf_mem ⟨⊤, by simp⟩
    simp only [Set.mem_setOf_eq] at this
    exact this _ h
  · obtain _ | n := n
    · exact ⟨⊥, fun _ _ ↦ hasProjectiveDimensionLT_of_ge _ 0 _ (by simp), by decide⟩
    · exact ⟨n, fun i hi ↦ hasProjectiveDimensionLT_of_ge _ (n + 1) _ (by simpa using hi),
        by simp [WithBot.lt_add_one_iff]⟩
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 4]
```diff
@@ -199,3 +230,104 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+
+lemma projectiveDimension_le_iff (X : C) (n : ℕ) : projectiveDimension X ≤ n ↔
+    HasProjectiveDimensionLE X n := by
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · apply hasProjectiveDimensionLT_of_projectiveDimension_lt X (n + 1)
+    exact lt_of_le_of_lt h (Nat.cast_lt.mpr (lt_add_one n))
+  · apply sInf_le
+    simp only [Set.mem_setOf_eq, Nat.cast_lt]
+    intro i hi
+    exact hasProjectiveDimensionLT_of_ge X (n + 1) i hi
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]:
```suggestion
lemma projectiveDimension_le_iff {X : C} {n : ℕ} : projectiveDimension X ≤ n ↔
    HasProjectiveDimensionLE X n := by
  simp [← projectiveDimension_lt_iff, ← WithBot.lt_add_one_iff]
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 5]
```diff
@@ -199,3 +230,104 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+      simp [eq0] at this
+    · have : ∀ (i : ℕ), (n - 1 : ℕ) < (i : WithBot ℕ∞) → HasProjectiveDimensionLT X i := by
+        intro i hi
+        exact hasProjectiveDimensionLT_of_ge X n i (Nat.le_of_pred_lt (Nat.cast_lt.mp hi))
+      have not := Nat.cast_le.mp (h (n - 1 : ℕ) this)
+      omega
+  · simp only [projectiveDimension, le_sInf_iff, Set.mem_setOf_eq]
+    intro m hm
+    by_contra nle
+    exact h (hm _ (lt_of_not_ge nle))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]:
```suggestion
lemma projectiveDimension_ge_iff {X : C} {n : ℕ} : n ≤ projectiveDimension X  ↔
    ¬ HasProjectiveDimensionLT X n := by
  rw [← not_iff_not, not_le, not_not, projectiveDimension_lt_iff]
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 6]
```diff
@@ -199,3 +230,104 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+lemma projectiveDimension_eq_bot_iff (X : C) : projectiveDimension X = ⊥ ↔
+    Limits.IsZero X := by
+  rw [← hasProjectiveDimensionLT_zero_iff_isZero]
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · apply hasProjectiveDimensionLT_of_projectiveDimension_lt X 0
+    simp [h, bot_lt_iff_ne_bot]
+  · rw [eq_bot_iff]
+    apply sInf_le
+    intro i _
+    apply hasProjectiveDimensionLT_of_ge X 0 i (Nat.zero_le i)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]:
```suggestion
lemma projectiveDimension_eq_bot_iff {X : C} :
    projectiveDimension X = ⊥ ↔ Limits.IsZero X := by
  rw [← hasProjectiveDimensionLT_zero_iff_isZero, ← projectiveDimension_lt_iff,
    Nat.cast_zero, ← WithBot.lt_coe_bot, bot_eq_zero', WithBot.coe_zero]
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 7]
```diff
@@ -199,3 +230,104 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+
+lemma projectiveDimension_eq_find (X : C) (h : ∃ n, HasProjectiveDimensionLE X n)
+    (nzero : ¬ Limits.IsZero X) [DecidablePred (HasProjectiveDimensionLE X)] :
+    projectiveDimension X = Nat.find h := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: Unless you intend to implement algorithms to compute the projective dimension, I am not sure we want this.

Comment (Thmoas-Guan) [reply Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: I'll remove it for now, I would add it back if I found it really needed.

Comment (Thmoas-Guan) [reply Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: Also, what do you think of adding a lemma `0 => X1 => X2 => X3 => 0` with `X2` projective, `projdim(X3) = projdim(X1) + 1` or `X3` is projective?

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 8]
```diff
@@ -199,3 +230,104 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+      use (x.unbot eqbot).toNat
+      have eq : x = (x.unbot eqbot).toNat := (WithBot.coe_unbot x eqbot).symm.trans
+        (WithBot.coe_inj.mpr (ENat.coe_toNat this).symm)
+      have : x < ((x.unbot eqbot).toNat + 1 : ℕ) := by
+        nth_rw 1 [eq]
+        exact Nat.cast_lt.mpr (lt_add_one _)
+      exact hx ((x.unbot eqbot).toNat + 1 : ℕ) this
+  · use n
+    simpa using ⟨fun i hi ↦ hasProjectiveDimensionLT_of_ge X (n + 1) i hi,
+      WithBot.coe_inj.not.mpr (ENat.coe_ne_top n)⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: The proof below may not be completely optimal, but this is a way to do a case by case proof:
```suggestion
lemma projectiveDimension_ne_top_iff (X : C) :
    projectiveDimension X ≠ ⊤ ↔ ∃ n, HasProjectiveDimensionLE X n := by
  generalize hd : projectiveDimension X = d 
  induction d with
  | bot =>
    simp only [ne_eq, bot_ne_top, not_false_eq_true, true_iff]
    exact ⟨0, by simp [← projectiveDimension_le_iff, hd]⟩
  | coe d =>
    induction d with
    | top =>
      by_contra!
      simp only [WithBot.coe_top, ne_eq, not_true_eq_false, false_and, true_and, false_or] at this
      obtain ⟨n, hn⟩ := this
      rw [← projectiveDimension_le_iff, hd, WithBot.coe_top, top_le_iff] at hn
      exact ENat.coe_ne_top _ ((WithBot.coe_eq_coe).1 hn)
    | coe d =>
      simp only [ne_eq, WithBot.coe_eq_top, ENat.coe_ne_top, not_false_eq_true, true_iff]
      exact ⟨d, by simpa only [← projectiveDimension_le_iff] using hd.le⟩
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 9]
```diff
@@ -123,6 +132,28 @@ instance [Projective X] : HasProjectiveDimensionLT X 1 := by
...
+    let _ := h 1 (le_refl 1) (Y := S.X₁)
+    exact AddCommGrp.isZero_of_subsingleton _
+  have exac := Ext.covariant_sequence_exact₃' X S_exact 0 1 (zero_add 1)
+  have surj: Function.Surjective ((Ext.mk₀ S.g).postcomp X (add_zero 0)) :=
+    (AddCommGrp.epi_iff_surjective _).mp (exac.epi_f (this.eq_zero_of_tgt _))
+  rcases surj (Ext.mk₀ f) with ⟨f', hf'⟩
+  use Ext.addEquiv₀ f'
+  simp only [AddMonoidHom.flip_apply, Ext.bilinearComp_apply_apply] at hf'
+  rw [← Ext.mk₀_addEquiv₀_apply f', Ext.mk₀_comp_mk₀] at hf'
+  exact (Ext.mk₀_bijective X Y).1 hf'
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: There is a specialized lemma expressing the "concrete" exactness. I would also think that it can be useful to extract the lemma `projective_iff_subsingleton_ext_one` because when the category has enough projectives, it may be probably be used in order to show that `HasProjectiveDimensionLT X n` holds iff `Ext X _ n` vanishes (which is a weaker condition than the vanishing of all `Ext X _ d` for `n ≤ d`).
```suggestion
lemma projective_iff_subsingleton_ext_one [HasExt.{w} C] {X : C} :
    Projective X ↔ ∀ ⦃Y : C⦄, Subsingleton (Ext X Y 1) := by
  refine ⟨fun h ↦ HasProjectiveDimensionLT.subsingleton X 1 1 (by rfl),
    fun h ↦ ⟨fun f g _ ↦ ?_⟩⟩
  obtain ⟨φ, hφ⟩ :=
    Ext.covariant_sequence_exact₃ _ { exact := ShortComplex.exact_kernel g }
      (Ext.mk₀ f) (zero_add 1) (by subsingleton)
  obtain ⟨φ, rfl⟩ := Ext.homEquiv₀.symm.surjective φ
  exact ⟨φ, Ext.homEquiv₀.symm.injective (by simpa using hφ)⟩

lemma hasProjectiveDimensionLT_one_iff (X : C) :
    Projective X ↔ HasProjectiveDimensionLT X 1 := by
  letI := HasExt.standard C
  exact ⟨fun _ ↦ inferInstance, fun _ ↦ projective_iff_subsingleton_ext_one.2
    (HasProjectiveDimensionLT.subsingleton X 1 1 (by rfl))⟩
```

Comment (Thmoas-Guan) [reply Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: Should I add the lemma `HasProjectiveDimensionLT X n` holds iff `Ext X _ n` in this PR too? I think it can be done with a simple dimension shifting.

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 10]
```diff
@@ -123,6 +131,22 @@ instance [Projective X] : HasProjectiveDimensionLT X 1 := by
...
+    Projective X ↔ ∀ ⦃Y : C⦄, Subsingleton (Ext X Y 1) := by
+  refine ⟨fun h ↦ HasProjectiveDimensionLT.subsingleton X 1 1 (by rfl),
+    fun h ↦ ⟨fun f g _ ↦ ?_⟩⟩
+  obtain ⟨φ, hφ⟩ :=
+    Ext.covariant_sequence_exact₃ _ { exact := ShortComplex.exact_kernel g }
+      (Ext.mk₀ f) (zero_add 1) (by subsingleton)
+  obtain ⟨φ, rfl⟩ := Ext.homEquiv₀.symm.surjective φ
+  exact ⟨φ, Ext.homEquiv₀.symm.injective (by simpa using hφ)⟩
+
+lemma hasProjectiveDimensionLT_one_iff (X : C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: This will be a better name:
```suggestion
lemma projective_iff_hasProjectiveDimensionLT_one (X : C) :
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 11]
```diff
@@ -199,3 +223,65 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+lemma projectiveDimension_eq_of_iso {X Y : C} (e : X ≅ Y) :
+    projectiveDimension X = projectiveDimension Y := by
+  simp only [projectiveDimension]
+  congr! 5
+  exact ⟨fun h ↦ hasProjectiveDimensionLT_of_iso e _,
+    fun h ↦ hasProjectiveDimensionLT_of_iso e.symm _⟩
+
+lemma projectiveDimension_lt_iff {X : C} {n : ℕ} :
+    projectiveDimension X < n ↔ HasProjectiveDimensionLT X n := by
+  refine ⟨fun h ↦ ?_, fun h ↦ (sInf_lt_iff ..).2 ?_⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]:
```suggestion
  refine ⟨fun h ↦ ?_, fun h ↦ sInf_lt_iff.2 ?_⟩
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 12]
```diff
@@ -199,3 +223,65 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+section ProjectiveDimension
+
+open CategoryTheory
+
+variable {C : Type u} [Category.{v, u} C] [Abelian C]
+
+/-- The projective dimension of an object in an abelian category. -/
+noncomputable def projectiveDimension (X : C) : WithBot ℕ∞ :=
+  sInf {n : WithBot ℕ∞ | ∀ (i : ℕ), n < i → HasProjectiveDimensionLT X i}
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean:236]: Could you add this:
```lean
lemma Retract.projectiveDimension_le {X Y : C} (h : Retract X Y) :
    projectiveDimension X ≤ projectiveDimension Y :=
  sInf_le_sInf_of_subset_insert_top (fun n hn ↦ by
    simp only [Set.mem_setOf_eq, not_top_lt, IsEmpty.forall_iff, implies_true,
      Set.insert_eq_of_mem] at hn ⊢
    intro i hi
    have := hn i hi
    exact h.hasProjectiveDimensionLT i)
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 13]
```diff
@@ -199,3 +223,65 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
     (by assumption) (by assumption)
 
 end CategoryTheory
+
+section ProjectiveDimension
+
+open CategoryTheory
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: It is your new definitions are in the root namespace. I would think they should be in the `CategoryTheory` namespace.

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 14]
```diff
@@ -199,3 +223,65 @@ instance (X Y : C) (n : ℕ) [HasProjectiveDimensionLT X n]
...
+  · have : projectiveDimension X ∈ _ := csInf_mem ⟨⊤, by simp⟩
+    simp only [Set.mem_setOf_eq] at this
+    exact this _ h
+  · obtain _ | n := n
+    · exact ⟨⊥, fun _ _ ↦ hasProjectiveDimensionLT_of_ge _ 0 _ (by simp), by decide⟩
+    · exact ⟨n, fun i hi ↦ hasProjectiveDimensionLT_of_ge _ (n + 1) _ (by simpa using hi),
+        by simp [WithBot.lt_add_one_iff]⟩
+
+lemma projectiveDimension_le_iff (X : C) (n : ℕ) : projectiveDimension X ≤ n ↔
+    HasProjectiveDimensionLE X n := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: Organising the whitespace as follows (for this lemma and others) would be preferred:
```suggestion
lemma projectiveDimension_le_iff (X : C) (n : ℕ) :
    projectiveDimension X ≤ n ↔ HasProjectiveDimensionLE X n := by
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 15]
```diff
@@ -17,6 +19,9 @@ if all `Ext X Y i` vanish when `n ≤ i`. This defines a type class
 `HasProjectiveDimensionLT X 0`, but this cannot be expressed in terms of
 `HasProjectiveDimensionLE`.)
 
+We also defined the projective dimension as `WithBot ℕ∞` as `projectiveDimension`,
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]:
```suggestion
We also define the projective dimension in `WithBot ℕ∞` as `projectiveDimension`,
```

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean (hunk 7 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: Let us add such lemmas in subsequent PRs.

Comment (Thmoas-Guan) [reply Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: I found that I didn't use the general case, so it won't be in a hurry.

**Comment by joelriou** [comment]
Thanks!

bors merge
